US08980925B2
Dimethyl-5-hexadecyloxyisophthalate (D10)
The product was generated using general protocol D using dimethyl-5-hydroxyisophthalate (3.920 g, 18.7 mmol), 1-bromohexadecane (5.18 g, 17.0 mmol), K2CO3 (9.37 g, 67.8 mmol), CH3CN (100 mL) yielded 6.30 g (86.5%) of a white solid. 1H NMR (CDCl3, 600 MHz) δ: 8.26 (t, 3J=1.4 Hz, 1H, Ar—H), 7.74 (d, 3J=1.5 Hz, 2H, Ar—H), 4.03 (t, 3J=6.5 Hz, 2H, O—CH2), 3.94 (s, 6H, COO—CH3), 1.80 (p, 3J=7.3 Hz, 2H, OCH2CH2), 1.46 (p, 3J=7.6 Hz, 2H, OCH2CH2CH2), 1.26 (m, 24H), 0.88 (t, 3J=6.8, 3H, CH2—CH3.

reactant | dimethyl-5-hydroxyisophthalate | 18.7 mmol, 3.920 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | 1-bromohexadecane | 17.0 mmol, 5.18 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | K2CO3 | 67.8 mmol, 9.37 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | Dimethyl-5-hexadecyloxyisophthalate | 6.30 g, 86.5% | COC(C1=CC(C(=O)OC)=CC(=C1)OCCCCCCCCCCCCCCCC)=O | C26H42O5
